US05698554
By treating 6-[4-(5-aminopentyl)phenyl]-4,5-dihydropyridazin-3(2H)-one and nicotinic acid in the same manner as in Example 30, 6-[4-(5-(pyridin-3-ylcarbonylamino)pentyl)phenyl]-4,5-dihydropyridazin-3(2H)-one was obtained.

reactant | 6-[4-(5-aminopentyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | NCCCCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C15H21N3O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | 6-[4-(5-(pyridin-3-ylcarbonylamino)pentyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | N1=CC(=CC=C1)C(=O)NCCCCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C21H24N4O2
